US04782141
0.088 g (0.446 millimoles) of barium carbonate and 0.21 g (2.23 millimoles) of monochloro acetic acid are dissolved in 10 ml of a 1:1 mixture of methanol and water under heating. The still hot solution is added to a suspension of 1.0 g (0.887 millimoles) of primycin sulfate and 70 ml of methanol. The reaction mixture is heated to boiling for 10 minutes under constant stirring, the precipitated barium sulfate is filtered through Celite. The filtrate is evaporated in vacuo. The solid residue is treated with ether. The white powdery solid is washed on the filter three times with 10 ml of ether saturated with water each and dried to constant weight. Thus 0.97 g of primycin monochloroacetate is obtained, yield 93.3%. Mp.: 176° C., /α/D25 =+22.0°.

reactant | barium carbonate | 0.446 millimoles, 0.088 g | C([O-])([O-])=O.[Ba+2]
reactant | monochloro acetic acid | 2.23 millimoles, 0.21 g | ClCC(=O)O | C2H3ClO2
reactant | primycin sulfate | 0.887 millimoles, 1.0 g | CCCCC1C(C(CCC(CCCC(CCCC(/C(=C/C(C(CC(CC(CC(CC(CCCC/C(=C/C(C(OC1=O)C(C)C(CCCNC(=N)N)O)C)/C)O)O)O)O)O)O[C@@H]2[C@H]([C@@H]([C@H](O2)CO)O)O)/C)O)O)O)C)O.S(=O)(=O)([O-])[O-]
solvent | methanol | CO | CH4O
solvent | water | O | H2O
solvent | methanol | 70 ml | CO | CH4O
product | primycin monochloroacetate | 0.97 g, yield 93.3% | CCCCC1C(C(CCC(CCCC(CCCC(/C(=C/C(C(CC(CC(CC(CC(CCCC/C(=C/C(C(OC1=O)C(C)C(CCCNC(=N)N)O)C)/C)O)O)O)O)O)O[C@@H]2[C@H]([C@@H]([C@H](O2)CO)O)O)/C)O)O)O)C)O.ClCC(=O)[O-] | InChI=1S/C55H103N3O17.C2H3ClO2/c1-7-8-19-43-49(69)33(3)22-23-38(61)17-11-16-37(60)18-12-20-44(66)34(4)26-47(73-54-51(71)50(70)48(31-59)74-54)46(68)30-42(65)29-41(64)28-40(63)27-39(62)15-10-9-14-32(2)25-35(5)52(75-53(43)72)36(6)45(67)21-13-24-58-55(56)57;3-1-2(4)5/h25-26,33,35-52,54,59-71H,7-24,27-31H2,1-6H3,(H4,56,57,58);1H2,(H,4,5)/p-1/b32-25+,34-26+;/t33?,35?,36?,37?,38?,39?,40?,41?,42?,43?,44?,45?,46?,47?,48-,49?,50-,51+,52?,54+;/m1./s1
